US09169191B2
Preparation of Erythritol 2,3-Dioleate
347 g (1.23 mol) oleic acid and 50 g (0.41 mol) erythritol were added into a 2 L three-neck flask which was equipped with a stirrer, a condenser and an addition funnel. To the flask was added 1 L toluene as a water carrier, followed by addition of a reaction catalyst p-toluenesulfonic acid (7.9 g, 2 wt %). The mixture was refluxed at 135±2° C. for 26 hours. When the reaction was ended, the reaction system was allowed to cool to room temperature and stand for 2 hours. The solid was removed by filtration, and the liquid phase was washed with a saturated sodium bicarbonate aqueous solution and petroleum ether in sequence. 160 g solid product was obtained after drying by rotary evaporation. A solution of the product in (CD3)2CO was tested by 1H NMR (400 MHz), and the results are as follows: (400 MHz): δ 0.89 (3H, t, J=6.8 Hz), 1.30 (20H, m), 1.60 (4H, m), 2.05 (8H, m), 2.34 (4H, t, J=7.6 Hz), 3.72 (2H, dd, J=4 Hz), 4.02 (2H, dd, J=5.6 Hz), 5.36 (6H, m). The above results show that the product obtained was a product formed by esterification of the hydroxyl groups on the 2,3-positions of erythritol, i.e. erythritol dioleate. The purity was determined by HPLC to be 91%.

reactant | oleic acid | 1.23 mol, 347 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | erythritol | 0.41 mol, 50 g | C([C@H](O)[C@H](O)CO)O | C4H10O4
reactant | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | 7.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | Erythritol 2,3-Dioleate | 160 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O[C@@H](CO)[C@H](OC(CCCCCCC\C=C/CCCCCCCC)=O)CO | C40H74O6
